US04752645
(B) 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one
Under an argon atmosphere, a stirred solution of [2-(2-amino-5-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (20.0 g; 0.047 mol) in 200 ml of methanol was treated with 13.3 ml of 25% sodium methoxide in methanol and heated to reflux. After about 2.75 hours of heating, the mixture was cooled in ice water and 1N hydrochloric acid was added to precipitate the product. Stirring in an ice water bath, followed by filtering, washing with water and air-drying yielded 19.0 g of product. The product was suspended in 30 ml of isopropanol, allowed to stand for one hour, filtered and washed with isopropanol and hexane to yield 13.64 g of the title compound, melting point 161°-163° C.

reactant | [2-(2-amino-5-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 0.047 mol, 20.0 g | NC1=C(C=C(C=C1)C(F)(F)F)CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC | C21H22F3NO5
reactant | sodium methoxide | 13.3 ml | C[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 19.0 g | COC(=O)C1C(NC2=C(CC1C1=C(C=CC=C1)OC)C=C(C=C2)C(F)(F)F)=O | C20H18F3NO4
